US07659279B2
3-Chloro-4-fluoroaniline (12 g) and 1N HCl in dioxane (40 ml) were added sequentially, each in one portion, to a mixture of 4-chloro-5,7-difluoroquinazoline (16.5 g) in IPA (250 ml) and the mixture was stirred at 80° C. under a nitrogen atmosphere for 17 hours. The reaction mixture was cooled to 0° C. and the precipitated solid was filtered and dried to leave N-(3-chloro-4-fluorophenyl)-5,7-difluoroquinazolin-4-amine as a green solid (18.2 g, 71%); Mass spectrum MH+ 310.

reactant | 3-Chloro-4-fluoroaniline | 12 g | ClC=1C=C(N)C=CC1F | C6H5ClFN
reactant | HCl | 1N | Cl | ClH
reactant | 4-chloro-5,7-difluoroquinazoline | 16.5 g | ClC1=NC=NC2=CC(=CC(=C12)F)F | C8H3ClF2N2
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
solvent | IPA | 250 ml | CC(C)O | C3H8O
product | N-(3-chloro-4-fluorophenyl)-5,7-difluoroquinazolin-4-amine | 18.2 g, 71% | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=CC(=C12)F)F | C14H7ClF3N3
